US08383659B2
DIPEA (15 ml) is added to a solution of N-(tert-butoxycarbonyl)glycine (5.0 g), PYBOP (benzotriazol-1-yl-oxytripyrrolidinophosphonium hexafluorophosphate, 16.3 g) and 2,2,2-trifluoroethylamine (2.47 ml) in dichloromethane (48 ml). After 24 hours at room temperature, the reaction is quenched with water and extracted three times with dichloromethane. The combined organic phases are washed with HOC (2M), Na2CO3 (1M) and a saturated aqueous solution of NaCl, dried over MgSO4 and concentrated in vacuo. The crude product is purified by column chromatography (450 g) eluting with a mixture of ethyl acetate and hexane (2:3 to 3:2) to yield [(2,2,2-trifluoro-ethylcarbamoyl)-methyl]-carbamic acid tert-butyl ester (3.89 g).

reactant | DIPEA | 15 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(tert-butoxycarbonyl)glycine | 5.0 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | PYBOP | 16.3 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 2,2,2-trifluoroethylamine | 2.47 ml | FC(CN)(F)F | C2H4F3N
solvent | dichloromethane | 48 ml | ClCCl | CH2Cl2
product | [(2,2,2-trifluoro-ethylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 3.89 g | C(C)(C)(C)OC(NCC(NCC(F)(F)F)=O)=O | C9H15F3N2O3
